US08034895B2
Synthesis of 5-diethylaminothiophene-2-carbaldehyde
In a round flask (100 mL) was added 5-bromothiophene-2-carboxaldehyde (1.37 mL) in 15 mL of distilled water. Diethylamine (12 mL) was added slowly, followed by refluxing for six days. Purification by flash chromatography provided the title compound as a brownish oil (1.13 g, 54%). 1H-NMR (300 MHz, [D] acetone): δ=9.46 (s, 1H), 7.56 (d, 1H, 3J=4.4 Hz), 6.07 (d, 1H, 3J=4.4 Hz), 3.485 (q, 4H, 3J=7.1 Hz), 1.23 (t, 6H, 3J=7.1 Hz). 13C-NMR (300 MHz, [D] acetone): δ=179.2, 166.0, 140.8, 125.9, 102.8, 47.6, 11.8.

reactant | 5-bromothiophene-2-carboxaldehyde | 1.37 mL | BrC1=CC=C(S1)C=O | C5H3BrOS
reactant | Diethylamine | 12 mL | C(C)NCC | C4H11N
solvent | water | 15 mL | O | H2O
product | 5-diethylaminothiophene-2-carbaldehyde | 1.13 g, 54% | C(C)N(C1=CC=C(S1)C=O)CC | C9H13NOS
